US06350756B1
The mixture of 4-hydroxyquinoline (290 mg, 2.0 mmol), potassium carbonate (910 mg, 6.6 mmol), ethyl bromoacetate (500 mg, 3.0 mmol) and acetone (25 ml) was refluxed for 8 h. After cooling, the mixture was filtered to remove potassium carbonate. The filtrate was concentrated under reduced pressure. To this residue, 10 ml of dioxane and 14 ml 5% sodium hydroxide solution was added. After the mixture was stirred at room temperature overnight, it was acidified with concentrated hydrochloric acid to pH 3, and then extracted three times with ethyl acetate (20 ml each). Water layer was placed in cold room, and solid came out. The crystals were filtered with suction and washed with water, and then dried to give 120 mg quinoline-4-oxyacetic acid as gray crystals, mp 274-276° C.

reactant | 4-hydroxyquinoline | 2.0 mmol, 290 mg | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | potassium carbonate | 6.6 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.0 mmol, 500 mg | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | quinoline-4-oxyacetic acid | 120 mg | N1=CC=C(C2=CC=CC=C12)OCC(=O)O | C11H9NO3
